US07271262B2
1E. (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone
Fe (8.24 g, 147.55 mmol) was added to a solution of (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)methanone (10.37 g, 29.51 mmol) and NH4Cl (6.31 g, 118.0 mmol) in 1,4-Dioxane (200 mL), EtOH (150 mL), and water (100 mL). The resulting suspension was heated to reflux for 2 h, at this time the reaction was cooled to room temperature then filtered through celite eluting with EtOAc. The filtrate was dried over MgSO4 and concentrated to afford the title compound as a yellow solid (9.48 g, 100%). MS: 322.3 (MH+); HPLC Rf: 4.55 min. (HPLC method 4).

reactant | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)methanone | 29.51 mmol, 10.37 g | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C2CCCC2 | C18H17N5O3
reactant | NH4Cl | 118.0 mmol, 6.31 g | [NH4+].[Cl-]
reactant | water | 100 mL | O | H2O
solvent | 1,4-Dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Fe | 147.55 mmol, 8.24 g | [Fe] | Fe
product | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone | 9.48 g, 100% | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)N)C2CCCC2 | C18H19N5O
